US04950666
With stirring, 14.5 grams (0.072 mole) of 1,1-difluorododec-1,11-diene was cooled to 0° C., and 25 ml (0.025 mole--1M in tetrahydrofuran) of borane·tetrahydrofuran complex was added dropwise. Upon completion of addition the reaction mixture was stirred for 30 minutes during which time the reaction mixture temperature was at 8°-12° C. After this time 25 ml of aqueous 3N sodium hydroxide was added dropwise. This was followed by 30 ml of aqueous 30% hydrogen peroxide. During the initial peroxide addition the exothermic reaction caused the reaction mixture temperature to rise to 30°-35° C. The reaction mixture was cooled to approximately 20° C., and the peroxide addition was continued. Upon completion of addition the reaction mixture was stirred at ambient temperature for 30 minutes, and then it was warmed to 45°-50° C. where it stirred for one hour. After this time it was allowed to cool to ambient temperature where it stood for 60 hours. The reaction mixture was shaken with 100 ml of water and 50 ml of methylene chloride. The methylene chloride layer was separated, and the water layer was extracted with two 50 ml portions of methylene chloride. The combined methylene chloride extracts were washed with 25 ml of water and 25 ml of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was distilled under reduced pressure yielding 7.6 grams of 12,12-difluoro-11-dodecenol; b.p. 80-85/0.2 mm. The nmr spectrum was consistent with the proposed structure.

reactant | 1,1-difluorododec-1,11-diene | 0.072 mole, 14.5 grams | FC(=CCCCCCCCCC=C)F | C12H20F2
reactant | sodium hydroxide | 3N | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 12,12-difluoro-11-dodecenol | 7.6 grams | FC(=CCCCCCCCCCCO)F | C12H22F2O
